US07365193B2
3,7-Bis(2-diethylaminoethoxy)dibenzothiophene
To a 0° C. mixture of 3,7-bis(2-diethylaminoethoxy)dibenzothiophene-5,5-dioxide (5.30 g, 1.2 mmol; see J. Med. Chem., 1978, 21, 1084) in dry THF (10 mL) was added portion-wise lithium aluminum hydride (90 mg, 2.4 mmol, Aldrich). The reaction mixture was allowed to warm to ambient temperature and then heated at reflux for 2 hours. After cooling to room temperature, the reaction mixture was quenched by sequential addition of H2O-THF (1:9, 1 mL), aq. NaOH (2.5 N, 0.1 mL), and H2O (0.3 mL). The mixture was stirred for 30 minutes, filtered, and the residue was purified by flash chromatography (35 g silica gel, eluting with 4-8% of 10% NH4OH/MeOH in CH2Cl2) to afford the title compound (250 mg, 51% yield).

reactant | 3,7-bis(2-diethylaminoethoxy)dibenzothiophene-5,5-dioxide | 1.2 mmol, 5.30 g | C(C)N(CCOC=1C=CC2=C(S(C3=C2C=CC(=C3)OCCN(CC)CC)(=O)=O)C1)CC | C24H34N2O4S
reactant | lithium aluminum hydride | 2.4 mmol, 90 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3,7-Bis(2-diethylaminoethoxy)dibenzothiophene | 250 mg, 51% yield | C(C)N(CCOC=1C=CC2=C(SC3=C2C=CC(=C3)OCCN(CC)CC)C1)CC | C24H34N2O2S
